US08426449B2
Step 2: [3-(2-Ethylaminomethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester
[3-(2-Formyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester (1.0 g, 2.79 mmol), ethylamine (2M in THF; 2.8 mL, 5.6 mmol), and sodium cyanoborohydride (0.26 g, 4.2 mmol) were combined in CH2Cl2 (30 mL), and the reaction was stirred at room temperature for 3 hours. After work-up, the mixture was concentrated to give the title compound.

reactant | [3-(2-Formyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | 2.79 mmol, 1.0 g | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)[N+](=O)[O-])C=O)=O | C18H17NO7
reactant | ethylamine | 5.6 mmol, 2M, 2.8 mL | C(C)N | C2H7N
reactant | sodium cyanoborohydride | 4.2 mmol, 0.26 g | C(#N)[BH3-].[Na+]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | [3-(2-Ethylaminomethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)[N+](=O)[O-])CNCC)=O | C20H24N2O6
